US07375105B2
Step 1: 5-(4-Chloro-3-methoxy-phenyl)-2,2-dimethyl-3-oxo-pent-4-enenitrile
The title compound was prepared from 2,2-dimethyl-3-oxo-butyronitrile {J. K. Rasmussen et al., Synthesis, 1973, 682} and 4-chloro-3-methoxy-benzaldehyde (F. Claudi et al., J. Med. Chem., 1992, 35, 4408) as described in Example 1 Step 1; MS (ES−) m/e 263, 265 [M−H]−.

reactant | 2,2-dimethyl-3-oxo-butyronitrile | CC(C#N)(C(C)=O)C | C6H9NO
reactant | 4-chloro-3-methoxy-benzaldehyde | ClC1=C(C=C(C=O)C=C1)OC | C8H7ClO2
product | 5-(4-Chloro-3-methoxy-phenyl)-2,2-dimethyl-3-oxo-pent-4-enenitrile | ClC1=C(C=C(C=C1)C=CC(C(C#N)(C)C)=O)OC | C14H14ClNO2
